US05352784
Using the method of Example 1 Part B, ethyl 2-[(ethoxycarbonyl)amino]-1-cyclohexene-1-carboxylate (158 g, 0.66 mole) was reacted with sodium methoxide to provide 79 g of methyl 2-amino-1-cyclohexene-1-carboxylate as a white solid.

reactant | ethyl 2-[(ethoxycarbonyl)amino]-1-cyclohexene-1-carboxylate | 0.66 mole, 158 g | C(C)OC(=O)NC1=C(CCCC1)C(=O)OCC | C12H19NO4
reactant | sodium methoxide | C[O-].[Na+]
product | methyl 2-amino-1-cyclohexene-1-carboxylate | 79 g | NC1=C(CCCC1)C(=O)OC | C8H13NO2
